US04014889
A solution of 38.4 g (0.4 mol) of freshly distilled furfurol and 125 ml of absolute dimethylformamide is added dropwise to a mixture of 9.8 g (0.2 mol) of NaCN and 125 ml of absolute dimethylformamide at 35° C in the course of 45 minutes in a manner analogous to Example 3. Stirring is then continued for 1/2 hour at 35° C. A solution of 43.8 g (0.3 mol) of benzalacetone and 150 ml of absolute dimethylformamide is then added dropwise in the course of 11/2 hours. Stirring is continued at the same temperature for a further 11/2 hours and the reaction mixture is then treated with twice its quantity of water and worked up as described in Example 5. 32.1 g of 1,4-dioxo-1-furyl-2-phenyl-pentane (44% of theoretical) are isolated from 83.5 g of the crude product by distillation; b.p. 147°-148° C/0.4 torr.

reactant | furfurol | C(C1=CC=CO1)O | C5H6O2
reactant | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
reactant | NaCN | 0.2 mol, 9.8 g | [C-]#N.[Na+]
reactant | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
reactant | benzalacetone | 0.3 mol, 43.8 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,4-dioxo-1-furyl-2-phenyl-pentane | 32.1 g, 44% | O=C(C(CC(C)=O)C1=CC=CC=C1)C=1OC=CC1 | C15H14O3
